US07238716B2
To a mixture of 2-[2-[[4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]phenoxy]methyl]-3-pyridyl]acetonitrile (1.19 g) and ethanol (15 mL) was added a 2N aqueous sodium hydroxide solution (15 mL) and the mixture was heated under reflux for 5 hrs. 1N Hydrochloric acid (30 mL) and water were added to the reaction mixture and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated to give crystals (1.08 g, 86%) of 2-[2-[[4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]phenoxy]methyl]-3-pyridyl]acetic acid. Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 126-127° C.

reactant | 2-[2-[[4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]phenoxy]methyl]-3-pyridyl]acetonitrile | 1.19 g | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(OCC2=NC=CC=C2CC#N)C=C1 | C25H21N3O3
reactant | ethanol | 15 mL | C(C)O | C2H6O
reactant | sodium hydroxide | 2N, 15 mL | [OH-].[Na+]
reactant | Hydrochloric acid | 1N, 30 mL | Cl | ClH
reactant | water | O | H2O
product | 2-[2-[[4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]phenoxy]methyl]-3-pyridyl]acetic acid | 1.08 g, 86% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(OCC2=NC=CC=C2CC(=O)O)C=C1 | C25H22N2O5
